US07384934B2
N-(2,4-Dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazapin-3-yl)-4,4,4-trifluoro-butyramide
Combine 3-amino-1H-1,5-benzodiazepine-2,4-(3H, 5H)-dione (5.60 g, 29.3 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimde hydrochloride (6.75 g, 35.2 mmol) and 4(dimethylamino)pyridine (0.183 g, 1.5 mmol) in 100 mL DMF, add 4,4,4-trifluoro butyric acid dropwise at 0-5° C. After addition, stir the reaction mixture at ice-water. After half an hour, warm to RT. After stirring overnight, remove solvent DMF under reduce pressure and suspend the residue in 200 mL of mixed solvent (CHCl3: i-PrOH=3:1). Collect the solid via vacuum filtration to give the title compound (6.87 g, yield 74%): mass spectrum (APCI) (m/e): 316.1 (M+1); 1H NMR (400 MHz, DMSO-d6): δ 10.72 (s, 2H), 8.60 (d, 1H, J=7.2 Hz), 7.24-7.15 (m, 4H), 4.74 (d, 1H, J=7.2 Hz), 2.58 (t, 2H, J=7.2 Hz), 2.39-2.35 (m, 2H).

reactant | 3-amino-1H-1,5-benzodiazepine-2,4-(3H, 5H)-dione | 29.3 mmol, 5.60 g | NC1C(NC2=C(NC1=O)C=CC=C2)=O | C9H9N3O2
reactant | 4,4,4-trifluoro butyric acid | FC(CCC(=O)O)(F)F | C4H5F3O2
catalyst | 4(dimethylamino)pyridine | 1.5 mmol, 0.183 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | N-(2,4-Dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazapin-3-yl)-4,4,4-trifluoro-butyramide | 6.87 g, yield 74% | O=C1C(C(NC2=C(N1)C=CC=C2)=O)NC(CCC(F)(F)F)=O | C13H12F3N3O3
